US07375115B2
N-[1-[2-[1-[1-(pirazin-2-yl)carbamoylmethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide
To a solution of [1-[2-[4-[N-(p-tolyl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]acetic acid (synthesized in Example 3B-1) (201 mg) dissolved in dichloromethane (6 mL) was added N,N-dimethylformamide (2 drops). Oxalyl chloride (0.060 mL) was then added to the solution dropwise under ice cooling. The solution was stirred for 1.5 hours. After addition of triethylamine (0.12 mL) at that temperature, the solution was stirred for 20 minutes. 2-Aminopyrazine (128 mg) was then added to the solution and it was stirred at that temperature. The temperature was allowed to rise to room temperature and the solution was stirred for 16 hours. NH Silica gel was added to the reaction solution, and it was concentrated under reduced pressure. The resulting residue was purified by chromatography [at the first stage; NH silica gel, hexane-ethyl acetate (2:1) and at the second stage; silica gel, chloroform-methanol (10:1)] to give the title compound (116 mg).

reactant | [1-[2-[4-[N-(p-tolyl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]acetic acid | 201 mg | C1(=CC=C(C=C1)N(C(=O)C=1OC=CC1)C1CCN(CC1)CCC1(CCCCC1)CC(=O)O)C | C27H36N2O4
reactant | Oxalyl chloride | 0.060 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | 2-Aminopyrazine | 128 mg | NC1=NC=CN=C1 | C4H5N3
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | N-[1-[2-[1-[1-(pirazin-2-yl)carbamoylmethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide | 116 mg | N1=C(C=NC=C1)NC(=O)CC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=CC=C(C=C1)C | C31H39N5O3
